US07612084B2
6-(4-{3-[(1R)-3-(Diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)hexanenitrile
6-{[(3E)-4-{4-(Benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}but-3-en-1-yl]oxy}hexanenitrile (Preparation 24, 935 mg, 1.65 mmol) was dissolved in ethanol (20 ml) and ammonium formate (1.90 g, 30.0 mmol) and 10% palladium hydroxide on carbon (190 mg) added. The reaction was heated under reflux for 1 hour, cooled to room temperature and the reaction filtered through Arbocel™, the filtrate solvent was removed in vacuo to furnish the title compound as a colourless oil, 783 mg.

reactant | 6-{[(3E)-4-{4-(Benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}but-3-en-1-yl]oxy}hexanenitrile | 1.65 mmol, 935 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)/C=C/CCOCCCCCC#N)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C38H50N2O2
reactant | ammonium formate | 30.0 mmol, 1.90 g | C(=O)[O-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 190 mg | [OH-].[OH-].[Pd+2]
product | 6-(4-{3-[(1R)-3-(Diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)hexanenitrile | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C=1C=C(C=CC1O)CCCCOCCCCCC#N)C(C)C | C31H46N2O2
